US07608629B2
Preparation 30. 4-(3-Amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
Using a method similar to preparation 28, using 4-(3-bromo-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (preparation 14, 5.01 g, 14.07 mmol) gives 6.42 g of the corresponding 4-[3-(benzhydrylidene-amino)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester. Add sequentially sodium acetate (anhydrous, 2.77 g, 33.78 mmol) and hydroxylamine hydrochloride (1.76 g, 25.33 mmol) to a stirred solution of 4-[3-(benzhydrylidene-amino)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (6.42 g, 14.07 mmol) in methanol (anhydrous, 140 mL) and stir at ambient room temperature. After 1 hr., dilute with dichloromethane (40 mL) and wash with sodium hydroxide (aq. 0.1 N, 60 mL), extract with dichloromethane (2×60 mL), dry over magnesium sulfate, filter under reduced vacuum and concentrate to dryness. Purify by flash chromatography (20-60% ethyl acetate/hexanes) to give the title compound as a pale yellow solid (3.85 g, 93%, 2 steps). Mass spectrum (ion spray): m/z=237.1 (M+1); 1H NMR (CDCl3): 7.04 (t, J=8.0 Hz, 1H), 6.34-6.26 (m, 3H), 4.41 (septet, J=3.5 Hz, 1H), 3.72-3.64 (m, 2H), 3.32 (ddd, J=3.9 Hz, 7.7 Hz, 13.2 Hz, 2H), 1.93-1.84 (m, 2H), 1.77-1.68 (m, 2H), 1.46 (s, 9H).

reactant | sodium acetate | 33.78 mmol, 2.77 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 25.33 mmol, 1.76 g | Cl.NO
reactant | 4-[3-(benzhydrylidene-amino)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 14.07 mmol, 6.42 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H32N2O3
solvent | methanol | 140 mL | CO | CH4O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(3-Amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 3.85 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)N | C16H24N2O3
